US04474963
3-Benzyloxy-1,2-epoxypropane (263 g, 1.60 mol), water (1,300 mL) and 70% perchloric acid (1.5 mL) were placed in a 2.0 L 3-necked flask equipped with condenser and thermometer. The mixture was heated to 80° for 18 hours. After heating and stirring for 18 hours at 80° the reaction mixture was neutralized with 5% sodium bicarbonate solution. The water was removed by rotary evaporation. Final removal of residual water was accomplished by azeotropic distillation using 300 mL of benzene. After evaporation of the benzene the product was distilled to yield 264 g (90%) of 3-benzyloxy-1,2-propanediol: bp 127°-136° C. (0.04 mm).

reactant | 3-Benzyloxy-1,2-epoxypropane | 1.60 mol, 263 g | C(C1=CC=CC=C1)OCC1CO1 | C10H12O2
reactant | perchloric acid | 1.5 mL | Cl(=O)(=O)(=O)O | ClHO4
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | water | 1,300 mL | O | H2O
product | 3-benzyloxy-1,2-propanediol | 264 g, 90% | C(C1=CC=CC=C1)OCC(CO)O | C10H14O3
